US07645789B2
A mixture of (E)-ethyl 2-(2-(dimethylamino)vinyl)-3,5-dinitrobenzoate (11 g, 0.037 mol) and SnCl2 (83 g, 0.37 mol) in ethanol was heated at reflux for 4 h. The mixture was concentrated to dryness and the residue was poured into water and basified using sat. aq. Na2CO3 to pH 8. The precipitated solid was filtered and the filtrate was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with water (2×100 mL) and brine (150 mL), dried over Na2SO4, and concentrated to dryness. The residue was purified by column on silica gel to give ethyl 6-amino-1H-indole-4-carboxylate (3.0 g, 40%). 1HNMR (DMSO-d6) δ 10.76 (br s, 1H), 7.11-7.14 (m, 2H), 6.81-6.82 (m, 1H), 6.67-6.68 (m, 1H), 4.94 (br s, 2H), 4.32-4.25 (q, J=7.2 Hz, 2H), 1.35-1.31 (t, J=7.2, 3H); MS (ESI) m/e (M+H+) 205.0.

reactant | (E)-ethyl 2-(2-(dimethylamino)vinyl)-3,5-dinitrobenzoate | 0.037 mol, 11 g | CN(/C=C/C1=C(C(=O)OCC)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C | C13H15N3O6
reactant | SnCl2 | 0.37 mol, 83 g | Cl[Sn]Cl
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-amino-1H-indole-4-carboxylate | 3.0 g, 40% | NC=1C=C(C=2C=CNC2C1)C(=O)OCC | C11H12N2O2
